US08957096B2
4. Synthesis of 2,4-dichloro-3-{(E)-[(cyclopropylmethoxy)imino]methyl}-N-(4-methyl-1,2,5-oxadiazol-3-yl)benzamide (Table example 3-004)
400 mg (1.39 mmol) of 2,4-dichloro-3-{[(cyclopropylmethoxy)imino]methyl}benzoic acid and 14418 mg (1.39 mmol) of 4-methyl-1,2,5-oxadiazole-3-amine were dissolved in 10 ml of CH2Cl2, 1.33 g (2.08 mmol) of propanephosphonic anhydride were added at 10-20° C. and the mixture was stirred at RT for 1 h. 700 mg of triethylamine and 34.6 mg (0.278 mmol) of DMAP were then added, and the mixture was stirred at RT for 2 days.

reactant | 2,4-dichloro-3-{[(cyclopropylmethoxy)imino]methyl}benzoic acid | 1.39 mmol, 400 mg | ClC1=C(C(=O)O)C=CC(=C1C=NOCC1CC1)Cl | C12H11Cl2NO3
reactant | 4-methyl-1,2,5-oxadiazole-3-amine | 1.39 mmol, 14418 mg | CC=1C(=NON1)N | C3H5N3O
reactant | triethylamine | 700 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.278 mmol, 34.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,4-dichloro-3-{(E)-[(cyclopropylmethoxy)imino]methyl}-N-(4-methyl-1,2,5-oxadiazol-3-yl)benzamide | ClC1=C(C(=O)NC2=NON=C2C)C=CC(=C1/C=N/OCC1CC1)Cl | C15H14Cl2N4O3
